US06821967B2
c. 9-{4-[4-(3-methyl-3H-imidazo[4,5]pyridin-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 1 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 3-methyl-2-(piperazin-1-yl)-3H-imidazo[4,5]pyridine.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
reactant | 3-methyl-2-(piperazin-1-yl)-3H-imidazo[4,5]pyridine | CN1C(=NC=2C=CC=NC21)N2CCNCC2 | C11H15N5
product | 9-{4-[4-(3-methyl-3H-imidazo[4,5]pyridin-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C=1N(C2=C(C=CC=N2)N1)C)(F)F | C31H33F3N6O
